US08283495B2
A solution of 22.5 mg (35 μmol) of the catalyst from example Ala in 3.2 ml of a mixture of formic acid and triethylamine (5:2 v/v) is added dropwise to a mixture of 676 mg (6 mmol) of 2-methylcyclohexanone, 2.74 g (48 mmol of allylamine and 100 mg of magnesium sulfate, and stirred. After 7 days at room temperature, the reaction mixture is diluted with 20 ml of water and extracted three times with 15 ml of dichloromethane. The organic phase is dried over sodium sulfate. After removal of the solvent and column chromatography (silica gel, 10:1 dichloromethane/methanol), 708 mg (77% yield) of (1R,2S)-N-allyl-(2-methylcyclohexyl)amine are obtained.

reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
reactant | 2-methylcyclohexanone | 6 mmol, 676 mg | CC1C(CCCC1)=O | C7H12O
reactant | allylamine | 48 mmol | C(C=C)N | C3H7N
reactant | magnesium sulfate | 100 mg | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | water | 20 ml | O | H2O
solvent | dichloromethane methanol | ClCCl.CO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | formic acid | C(=O)O | CH2O2
product | (1R,2S)-N-allyl-(2-methylcyclohexyl)amine | 708 mg, 77% yield | C(C=C)N[C@H]1[C@H](CCCC1)C | C10H19N
